US09339503B2
2-[4-(6-Hydroxypyridin-2-yl)piperazin-1-yl]-5,6,7,8-tetrahydro-3H-quinazolin-4-one (“A16”)
2-Methylsulfanyl-5,6,7,8-tetrahydro-3H-quinazolin-4-one (100 mg; 0.51 mmol) and 6-piperazin-1-ylpyridin-2-ol (91.3 mg; 0.51 mmol) are reacted in isoamyl alcohol (1 ml) in accordance with the procedure for Example 9 and worked up. The crude product obtained after conventional work-up is purified by column chromatography, triturated with diethyl ether, filtered off with suction and dried; yield: 17 mg (10%), crystals;

reactant | 2-Methylsulfanyl-5,6,7,8-tetrahydro-3H-quinazolin-4-one | 0.51 mmol, 100 mg | CSC1=NC=2CCCCC2C(N1)=O | C9H12N2OS
reactant | 6-piperazin-1-ylpyridin-2-ol | 0.51 mmol, 91.3 mg | N1(CCNCC1)C1=CC=CC(=N1)O | C9H13N3O
solvent | isoamyl alcohol | 1 ml | C(CC(C)C)O | C5H12O
product | 2-[4-(6-Hydroxypyridin-2-yl)piperazin-1-yl]-5,6,7,8-tetrahydro-3H-quinazolin-4-one | OC1=CC=CC(=N1)N1CCN(CC1)C1=NC=2CCCCC2C(N1)=O | C17H21N5O2
